US04997831
3-(2,3-Dihydro-1H-indol-1-yl)-2-cyclohexen-1-one
A mixture of indoline (5.39 g) and cyclohexane-1,3-dione (5.07 g) was heated at ca. 150° for 7 h. After cooling, the mixture was purified by FCC eluting with ethyl acetate: methanol (10:1) to give a solid (7.30 g) which was recrystallised from ethyl acetate: ether (ca. 4:1) to give the title compound (5.08 g), m.p. 85°-86°.

reactant | indoline | 5.39 g | N1CCC2=CC=CC=C12 | C8H9N
reactant | cyclohexane-1,3-dione | 5.07 g | C1(CC(CCC1)=O)=O | C6H8O2
product | 3-(2,3-Dihydro-1H-indol-1-yl)-2-cyclohexen-1-one | 7.30 g | N1(CCC2=CC=CC=C12)C1=CC(CCC1)=O | C14H15NO
